US20010021718A1
tert-butyl (3R)-6-cyclobutyl-3-{4-[(dimethylamino)carbonyl]-1,3-oxazol-2-yl}hexanoate
A solution of tert-butyl (3R,5Z)-6-cyclobutyl-3-{4-[(dimethylamino)carbonyl]-1,3-oxazol-2-yl}-5-hexenoate (Preparation 119) (260 mg, 0.72 mmol) in ethanol (15 ml) was treated with palladium hydroxide (250 mg) followed by ammonium formate (500 mg) and the mixture was stirred at reflux for 3 hours. The reaction mixture was allowed to cool to room temperature and was filtered through arbacel. The solvent was removed under reduced pressure. The residue was dissolved in ethyl acetate and washed with water and brine, dried over anhydrous sodium sulphate and filtered. The solvent was removed under reduced pressure to afford the title compound as a colourless oil (246 mg).

reactant | tert-butyl (3R,5Z)-6-cyclobutyl-3-{4-[(dimethylamino)carbonyl]-1,3-oxazol-2-yl}-5-hexenoate | 0.72 mmol, 260 mg | C1(CCC1)\C=C/C[C@H](CC(=O)OC(C)(C)C)C=1OC=C(N1)C(=O)N(C)C | C20H30N2O4
reactant | ammonium formate | 500 mg | C(=O)[O-].[NH4+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
catalyst | palladium hydroxide | 250 mg | [OH-].[Pd+2].[OH-]
product | tert-butyl (3R)-6-cyclobutyl-3-{4-[(dimethylamino)carbonyl]-1,3-oxazol-2-yl}hexanoate | 246 mg | C1(CCC1)CCC[C@H](CC(=O)OC(C)(C)C)C=1OC=C(N1)C(=O)N(C)C | C20H32N2O4
